US07851473B2
(3) 2-Bromo-4-(2-fluorophenyl)-1,3-thiazole
To a solution of 2-(2-fluorophenyl)-2-oxoethyl thiocyanate (4.20 g, 21.5 mmol) in acetic acid (40 ml) was added a solution of 25% hydrogen bromide/acetic acid (40 ml), and the mixture was stirred at 130° C. for 2 hours. Water was poured into the reaction solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give the desired product (3.41 g, 61.4%) as an oil.

reactant | 2-(2-fluorophenyl)-2-oxoethyl thiocyanate | 21.5 mmol, 4.20 g | FC1=C(C=CC=C1)C(CSC#N)=O | C9H6FNOS
reactant | hydrogen bromide acetic acid | 40 ml | Br.C(C)(=O)O
reactant | Water | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(2-fluorophenyl)-1,3-thiazole | 3.41 g, 61.4% | BrC=1SC=C(N1)C1=C(C=CC=C1)F | C9H5BrFNS
